US05030728
B. 9-n-Butyl-1,2,3,4,5,6,7,8-octahydroacridine. (XV)
A 500 mL, one-necked flask equipped with a magnetic stirring bar, a Claisen adapter, and a reflux condenser equipped with a nitrogen inlet attached to a bubble (Note 6) is charged with 17.0 g (0.22 mol) of ammonium acetate, 82 g (0.41 mol) of cupric acetate monohydrate and 200 mL of glacial acetic acid, then flushed with nitrogen. The mixture is stirred and heated at reflux under a static atmosphere of nitrogen for 15 min., then the resulting solution is cooled slightly as 53 g (0.20 mol) of 8-n-butyl-2-hydroxytricyclo[7.3.1.02,7 ]tridecan-13-one is added in several portions. The blue-green reaction mixture is stirred and heated at reflux under nitrogen for 3 hrs., then the reaction flask is cooled in an ice bath for 2-3 hours. Precipitated cuprous acetate is removed by vacuum filtration using a fitted glass funnel (medium or coarse porosity) and washed with 100 mL of acetic acid. The combined filtrates are diluted with 500 mL of water, cooled in ice and carefully neutralized by slow addition of aqueous sodium hydroxide (Note 7). The resulting cloudy mixture is transferred to a separatory funnel and extracted with ether (400 mL, then 2× 200 mL). The combined ether extracts are washed with 140 mL of 3% aqueous sodium hydroxide and 70 mL of saturated aqueous sodium chloride, then dried using anhydrous magnesium sulfate with 1 g of decolorizing charcoal (Norit). The solids are removed by filtration and washed with at least 200 ml of ether. The combined filtrates are concentrated to minimum volume using a rotary evaporator and residual solvent is removed under vacuum (1mm). The product is obtained as a beige crystalline solid, mp 35-37° C., 47 g (97%) (Note 8).

reactant | ammonium acetate | 0.22 mol, 17.0 g | C(C)(=O)[O-].[NH4+]
reactant | 8-n-butyl-2-hydroxytricyclo[7.3.1.02,7 ]tridecan-13-one | 0.20 mol, 53 g | C(CCC)C1C2CCCCC2(C2CCCC1C2=O)O | C17H28O2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 9-n-Butyl-1,2,3,4,5,6,7,8-octahydroacridine | C(CCC)C=1C=2CCCCC2N=C2CCCCC12 | C17H25N
